US04366096
(a) Titanium Chloride-Urea Solution
600 Gms. of urea (11.0 moles) and 189.7 gms. (1.0 moles) of TiCl4 are mixed at room temperature. To this mixture is added 457.5 gms. of water (25.4 moles) and the reaction mixture stirred at room temperature for 15 minutes. This reaction mixture is then adjusted to a pH of 1.5 by the addition of sodium bicarbonate.

reactant | urea | 11.0 moles | NC(=O)N | CH4N2O
reactant | TiCl4 | 1.0 moles | Cl[Ti](Cl)(Cl)Cl
reactant | water | 25.4 moles | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | Titanium Chloride Urea | [Cl-].[Ti+4].[Cl-].[Cl-].[Cl-].NC(=O)N | InChI=1S/CH4N2O.4ClH.Ti/c2-1(3)4;;;;;/h(H4,2,3,4);4*1H;/q;;;;;+4/p-4
